US08383636B2
Lithium aluminium hydride (3 ml, 2M in THF, 6.0 mmol) was added dropwise to a solution of tert-butyl((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)methylcarbamate (620 mg, 2.1 mmol) in tetrahydrofuran (5 ml) and the resulting suspension heated to reflux and monitored by TLC. After 1 h at reflux the reaction appeared complete by TLC analysis therefore cool to ambient and quench with water (0.25 ml), 15% aq NaOH (0.25 ml), and water (0.75 ml) and stir the resulting white suspension for 30 minutes. The suspension was then filtered through Celite®, washed with hot ethyl acetate, and the filtrate concentrated in vacuo to afford a mobile oil. The residue was purified by flash chromatography on silica gel eluting with Purify the resulting oil by flash chromatography on silica gel eluting with 5% 7 N NH3 in MeOH/DCM to afford ((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)-N-methylmethanamine (330 mg, 76%) as a colourless oil. 1H NMR (CDCl3) δ 3.94 (m, 2H), 2.85 (dd, J=12.3, 3.2 Hz, 1H), 2.75 (m, 3H), 2.47 (s, 3H), 2.18 (s, 3H), 1.41 (s, 3H), 1.41 (s, 3H). 13C NMR (CDCl3) δ 109.4, 80.7, 79.0, 54.8, 37.6, 37.5, 28.1, 27.9, 17.3.

reactant | Lithium aluminium hydride | 6.0 mmol, 2M, 3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)methylcarbamate | 2.1 mmol, 620 mg | C(C)(C)(C)OC(NC[C@H]1OC(O[C@@H]1CSC)(C)C)=O | C13H25NO4S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | ((4R,5S)-2,2-dimethyl-5-(methylthiomethyl)-1,3-dioxolan-4-yl)-N-methylmethanamine | 330 mg, 76% | CC1(O[C@@H]([C@H](O1)CNC)CSC)C | C9H19NO2S
